RC_lowpass
*SPICE Netlist generated by Advanced Sim server on 2017/3/17 10:06:38

*Schematic Netlist:
C1 0 OUT 100pF
R1 IN OUT 1.6K
V1 IN 0 DC 0 SIN(0 1 1000k 0 0) AC 1 0

.SAVE 0 IN OUT V1#branch @V1[z] @C1[i] @R1[i] @C1[p] @R1[p] @V1[p]

*PLOT AC -1 1 A=IN
*PLOT TRAN -1 1 A=IN
*PLOT OP -1 1 A=IN

*Selected Circuit Analyses:
.AC DEC 1000 1000 1E9
.TRAN 2E-9 5E-6 0 2E-9
.OP

.END
